US04824951
2-(3,4-Dichlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo-[4,5-b]pyridine
Under nitrogen bubbling, a mixture of 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.5 g, 0.011 mole) and 1,1'-carbonyldiimidazole (1.95 g, 0.011 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. Piperidine (1.87 g, 0.022 mole) was added and the reaction was allowed to stir at room temperature overnight.

reactant | 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.011 mole, 3.5 g | ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H9Cl2N3O2
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Piperidine | 0.022 mole, 1.87 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(3,4-Dichlorophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo-[4,5-b]pyridine | ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(N1CCCCC1)=O | C19H18Cl2N4O
